US09403805B2
(2S,4S)-4-Amino-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester was prepared from (2S,4R)-4-tert-butoxy-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester in a similar reaction sequence used in the preparation of (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester. MS calcd. for C15H18N3O3 [(M+H)+] 288, obsd. 288.

reactant | (2S,4R)-4-tert-butoxy-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C=1OC=CN1 | C19H24N2O4
reactant | (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)N)CC1CCCCC1 | C13H24N2O2
product | (2S,4S)-4-Amino-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)N)C=1OC=CN1 | C15H17N3O3
